US07057074B2
The compound was prepared under Suzuki reaction conditions. 4,4′-diiodo-biphenyl (1.0 g, 2.46 mmol), phenyl boric acid (0.24 g, 1.970 mmol), tetrakis(triphenylphosphine)palladium (0.085 g, 0.074 mmol), 2M-sodium carbonate (12.3 ml) and toluene (76 ml) were simultaneously mixed, freezed under liquid nitrogen, evacuated by a vacuum pump and then warmed to room temperature to be melted. This procedure was repeated twice, followed by injection of nitrogen. The mixed solution was refluxed for 2 days and cooled to room temperature. Thereafter, a small amount of distilled water was added, and the organic layer was filtered three times with dichloromethane, dried with sodium sulfate. Then, the dichloromethane was concentrated under reduced pressure. Purification by silica gel chromatography using 1% dichloromethane in hexane gave 4″-iodo-[1,1′;4′,1″]terphenyl (Yield: 0.245 g, 35%). The structure of the product was identified through the NMR spectrum and mass spectrum. FIG. 6 shows the mass spectrum of 4″-iodo-[1,1′;4′,1″]terphenyl.

reactant | 4,4′-diiodo-biphenyl | 2.46 mmol, 1.0 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | phenyl boric acid | 1.970 mmol, 0.24 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | sodium carbonate | 12.3 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.074 mmol, 0.085 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 76 ml | C1(=CC=CC=C1)C | C7H8
product | 4″-iodo-[1,1′;4′,1″]terphenyl | Yield: 0.245 g, 35% | IC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H13I
